US08497368B2
Acetic acid [1-[3-(7-fluoro-quinolin-6-ylmethyl)-3H-[1,2,3]triazolo[4,5-b]pyrazin-5-yl]-eth-(E)-ylidene]-hydrazide
The title compound (30.5 mg, 82%) was synthesized from 1-[3-(7-fluoro-quinolin-6-ylmethyl)-3H-[1,2,3]triazolo[4,5-b]pyrazin-5-yl]-ethanone (30.0 mg, 0.09 mmol) and acetic acid hydrazide (23.0 mg, 0.28 mmol) using the same procedure as described in the synthesis of example 72. 1H-NMR (400 MHz, DMSO-d6) δ ppm 10.83 (bs, 1H), 9.46 (s, 1H), 8.93 (dd, 1H), 8.40 (d, 1H), 8.19 (d, 1H), 7.81 (d, 1H), 7.53 (dd, 1H), 6.22 (s, 2H), 2.34, 2.14 (s, 6H). LCMS (method A): [MH]+=379, tR=2.07 min.

reactant | 1-[3-(7-fluoro-quinolin-6-ylmethyl)-3H-[1,2,3]triazolo[4,5-b]pyrazin-5-yl]-ethanone | 0.09 mmol, 30.0 mg | FC1=C(C=C2C=CC=NC2=C1)CN1N=NC2=NC=C(N=C21)C(C)=O | C16H11FN6O
reactant | acetic acid hydrazide | 0.28 mmol, 23.0 mg | C(C)(=O)NN | C2H6N2O
product | Acetic acid [1-[3-(7-fluoro-quinolin-6-ylmethyl)-3H-[1,2,3]triazolo[4,5-b]pyrazin-5-yl]-eth-(E)-ylidene]-hydrazide | 30.5 mg, 82% | FC1=C(C=C2C=CC=NC2=C1)CN1N=NC2=NC=C(N=C21)\C(\C)=N\NC(C)=O | C18H15FN8O
